US07855225B2
To 4.5 mL of DMF cooled in an ice-salt bath, 1.3 mL of phosphorus oxychloride was added, and the resulting mixture was stirred for 30 minutes. A solution of 2.13 g of 7-chloro-4-methyl-1H-indole in 3 mL of DMF was added to the solution under cooling and the resulting mixture was stirred at room temperature for 15 minutes and at 35° C. for 1 hour. After the solution was allowed to cool, 20 g of ice and 15 mL of 10 M aqueous sodium hydroxide solution were added, the resulting mixture was heated to 100° C., then allowed to cool to room temperature, and stirred under ice cooling for 30 minutes, and the precipitated solid was collected by filtration. To a solution of the solid obtained in 15 mL of MeCN and 50 mL of t-BuOH, 14 mL of 2-methyl-2-butene and 3.1 g of sodium dihydrogen phosphate were added, and a mixture of 9.3 g of sodium chlorite and 15 mL of water were further added, and the resulting mixture was stirred at room temperature for 2 days. To the solution, 100 mL of toluene and 50 mL water were added, and the mixture was extracted twice with 50 mL of 0.5 M aqueous sodium hydroxide solution. Concentrated hydrochloric acid was added to the extract to adjust the pH to pH3, the precipitated solid was collected by filtration, and the obtained solid was purified by silica gel column chromatography (chloroform-methanol=100:1 →150:1→20:1) to obtain 0.79 g of 7-chloro-4-methyl-1H-indole-3-carboxylic acid as a beige solid.

reactant | phosphorus oxychloride | 1.3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-chloro-4-methyl-1H-indole | 2.13 g | ClC=1C=CC(=C2C=CNC12)C | C9H8ClN
reactant | sodium hydroxide | 10 M, 15 mL | [OH-].[Na+]
reactant | 2-methyl-2-butene | 14 mL | CC(C)=CC | C5H10
reactant | sodium dihydrogen phosphate | 3.1 g | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 9.3 g | Cl(=O)[O-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | t-BuOH | 50 mL | CC(C)(C)O | C4H10O
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 15 mL | O | H2O
product | 7-chloro-4-methyl-1H-indole-3-carboxylic acid | 0.79 g | ClC=1C=CC(=C2C(=CNC12)C(=O)O)C | C10H8ClNO2
